Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
liver biopsy ___

 
History of Present Illness:
___ yo presents with RUQ pain. Pain has been present for 1 month, 
constant, non-radiating, not related to food. Associated with 
nausea, no emesis, generalized weakness and DOE. Pt reports poor 
PO intake due to nausea with weight loss of a few pounds in the 
past month. Had outpatient work up which revealed elevated LFTs, 
a possible mass on RUQ ultrasund and MRCP showing likely 
obstructing cholangiocarcinoma with mets in liver.

In ED pt given Unasyn and CTA chest to rule out PE given 
worsening DOE and potential malginancy which was negative. 
Hepatology and ERCP both consulted.
On arrival to floor pt reports very mild pain and no SOB at 
rest.

ROS: +as above, otherwise reviewed and negative
 
Past Medical History:
HTN
 
Social History:
___
Family History:
Mother- died of lung ca, skin ca, colon ca (smoker)
muncle died of colon ca
Father- died of brain tumor age ___

 
Physical Exam:
Vitals: T:97.8 BP:125/82 P:74 R:18 O2:97%ra  
PAIN: 0
General: nad
Lungs: clear
CV: rrr no m/r/g
Abdomen: bowel sounds present, soft, mildly tender RUQ
Ext: no e/c/c
Skin: no rash
Neuro: alert, follows commands
 

 
Pertinent Results:
___ 01:20PM   GLUCOSE-128* UREA N-21* CREAT-1.0 SODIUM-141 
POTASSIUM-4.5 CHLORIDE-101 TOTAL CO2-27 ANION GAP-18
___ 01:20PM   ALT(SGPT)-60* AST(SGOT)-184* LD(LDH)-802* 
CK(CPK)-36 ALK PHOS-304* TOT BILI-0.7
___ 01:20PM   ALT(SGPT)-60* AST(SGOT)-184* LD(LDH)-802* 
CK(CPK)-36 ALK PHOS-304* TOT BILI-0.7
___ 01:20PM   LIPASE-34
___ 01:20PM   CK-MB-1 cTropnT-<0.01 proBNP-165
___ 01:20PM   WBC-16.3* RBC-5.29 HGB-15.2 HCT-47.4 MCV-90 
MCH-28.7 MCHC-32.0 RDW-13.0
___ 01:20PM   PLT COUNT-289

CTA Chest ___ Preliminary Report IMPRESSION: 
1. No evidence of pulmonary embolism. 
2. Hypodense mass centered in segment 8 of the liver which was 
better 
characterized on recent MRI. No intrahepatic biliary dilatation 
in the 
visualized portion of the liver.  
3. 2 mm right middle lobe pulmonary nodule for which followup in 
___ year is recommended if no other imaging is performed for 
another reason 

MRCP ___ IMPRESSION: 
1.  A dominant segment VIII hepatic mass, highly worrisome for 
intrahepatic cholangiocarcinoma.  Numerous additional lesions 
throughout the liver worrisome for hepatic metastasis.  Diffuse 
abnormality in the right hepatic lobe is thought to not be from 
infiltrative tumor but likely from edema, possibly related to 
portal vein hypoperfusion as the right vein is narrowed 
severely. 
2.  No evidence of intra-abdominal metastasis 

 
Brief Hospital Course:
___ presents with RUQ abdominal pain and dyspnea on exertion.

The patient had bee undergoing an evaluation for a right sided 
liver mass when she presented with DOE.  The pt reported that 
she has intermittent DOE and an increase in RUQ pain with 
breathing.  She noted fatigue with activity more than usual. 
She underwent a CT chest to eval for PE.  This was negative.  Pt 
also had no sign of pneumonia or pulmonary edema.  The liver 
mass was reviewed.  It is directly adjacent to the right 
diaphragm.  It may be that the pt's symptoms are related to the 
liver mass. 

Pt's films were evaluated by the ERCP team.  Based on the 
location of the mass, they recommended to fist pursue ___ guided 
biopsy.  Ir was able to schedule the biopsy on the following 
day.  Pt underwent liver biopsy without event and was discharged 
to home.  SHe had a AFP and CAE levels drawn, but there were not 
back yet at the time of the biopsy.  As the pt was ambulatory 
and generally feeling well it appeared to be more sensible to 
discharge the patient to home and have her follow up with her 
PCP on the liver biopsy results and where the next steps may be. 
 Pt was d/ced to home in stable condition. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Hydrochlorothiazide 25 mg PO DAILY 
2. Potassium Chloride 20 mEq PO DAILY 

 
Discharge Medications:
1. Potassium Chloride 20 mEq PO DAILY 
2. Hydrochlorothiazide 25 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
liver mass

 
Discharge Condition:
alert, interactive, ambulatory

 
Discharge Instructions:
You were evaluated for your shortness of breath and the right 
sided discomfort. 
A CT of the chest did not show any signs of infection, clots in 
the lungs, or fluid in the lungs
The MRI shows that the liver mass is close to the diaphragm and 
may be irritating it and causing this sensation. 
You have a biopsy of the mass on ___ and 2 blood tests to 
help determine what it is from: AFP and CEA. 
You may return to home and continue to work with your physician 
to determine what is causing your symptoms
 
Followup Instructions:
___